* cap_cmomi (ihp-sg13cmos5l) low-frequency capacitance check.
* Exercises the OSDI compact model loaded via the PDK .spiceinit, i.e. it also
* verifies that SPICE_USERINIT_DIR points at the cmos5l PDK.
.lib cornerCAP.lib cap_typ

* w=5u l=5u, Metal1..Metal4 (N=4), feed=double -> 16.2977 fF
V1 a 0 dc 0 ac 1
X1 a 0 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double

* same geometry with the single-side feed -> 21.6737 fF (adds the feed cap)
V2 b 0 dc 0 ac 1
X2 b 0 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=same

.control
ac lin 1 1e6 1e6
let f = real(frequency)
let c_double = imag(-i(v1))/(2*pi*f)
let c_same   = imag(-i(v2))/(2*pi*f)
* The expected values are the PCell's own C-label formula, so a drift here means
* layout and model no longer agree.
if abs(c_double[0] - 16.2977e-15) > 1e-17
  echo "FAIL cap_cmomi feed=double"
else
  echo "PASS cap_cmomi feed=double"
end
if abs(c_same[0] - 21.6737e-15) > 1e-17
  echo "FAIL cap_cmomi feed=same"
else
  echo "PASS cap_cmomi feed=same"
end
.endc
.end
